US07939524B2
d) (2R,3S)-3-Amino-bicyclo[2.2.2]octane-2-carboxylic Acid Methyl Ester Hydrochloride
(2R,3S)-3-Benzyloxycarbonylamino-bicyclo[2.2.2]octane-2-carboxylic acid methyl ester (0.57 g, 1.79 mmol) was dissolved in ethyl acetate (20 mL). 10% Palladium on carbon (60 mg) was added. The flask was degassed and backfilled with hydrogen gas via balloon. The mixture was stirred at 25° C. for 16 h. The mixture was passed through a plug of Celite and the filtrate was concentrated in vacuo to afford a thick clear oil. The oil was dissolved in diethyl ether (6 mL) and added dropwise with vigorous stirring to a mixture of 4.0 M solution of hydrochloric acid in 1,4-dioxane (1.02 mL) and diethyl ether (10 mL). The desired product began to precipitate as a white solid. The mixture was stirred for 20 min. The precipitate was collected by vacuum filtration, washed with additional diethyl ether (5 mL). The solid was further dried in vacuo for 1 h to afford the desired product, (2R,3S)-3-amino-bicyclo[2,2,2]octane-2-carboxylic acid methyl ester hydrochloride (0.33 g, 1.50 mmol, 84%), as a white powder. 1H NMR (400 MHz, DMSO-d6) δ: 1.38 (2H, dd, J1=21.2 Hz, J2=13.6 Hz), 1.55-1.63 (5H, m), 1.76-1.89 (3H, m), 3.02 (1H, dd, J1=10.0 Hz, J2=2.4 Hz), 3.47 (1H, bs), 3.65 (3H, s), 7.97 (3H, s). LC-MS (ESI) calcd for C10H17NO2 (free amine) 183.25, found 184.2 [M+H+].

reactant | (2R,3S)-3-Benzyloxycarbonylamino-bicyclo[2.2.2]octane-2-carboxylic acid methyl ester | 1.79 mmol, 0.57 g | COC(=O)[C@@H]1C2CCC([C@@H]1NC(=O)OCC1=CC=CC=C1)CC2 | C18H23NO4
reactant | hydrochloric acid | Cl | ClH
solvent | ethyl acetate | 20 mL | C(C)(=O)OCC | C4H8O2
catalyst | Palladium on carbon | 60 mg | [Pd] | Pd
solvent | diethyl ether | 6 mL | C(C)OCC | C4H10O
solvent | 1,4-dioxane | 1.02 mL | O1CCOCC1 | C4H8O2
solvent | diethyl ether | 10 mL | C(C)OCC | C4H10O
product | (2R,3S)-3-Amino-bicyclo[2.2.2]octane-2-carboxylic Acid Methyl Ester Hydrochloride | Cl.COC(=O)[C@@H]1C2CCC([C@@H]1N)CC2 | InChI=1S/C10H17NO2.ClH/c1-13-10(12)8-6-2-4-7(5-3-6)9(8)11;/h6-9H,2-5,11H2,1H3;1H/t6?,7?,8-,9+;/m1./s1
